US04127667
3,4,7,8-Tetrahydro-2-oxo-4-phenyl-8-(phenylmethylene)-2H,5H-thiopyrano[4,3-b]pyran-3-carboxylic acid, ethyl ester
To an ethanolic solution of sodium ethoxide [prepared from 555 mg (24 mg atom) of sodium in 50 ml of ethanol] is added diethyl malonate (3.52 g, 22 mmole) in 50 ml of absolute ethanol. After heating at reflux temperature for 2 hours, tetrahydro-3,5-bis(phenylmethylene)-4H-thiopyran-4-one (5.84 g, 20 mmole) is added. The resulting solution is then heated at reflux temperature for 2 hours.

reactant | sodium ethoxide | 50 ml, 555 mg | [O-]CC.[Na+]
reactant | sodium | 24 mg | [Na] | Na
reactant | diethyl malonate | 22 mmole, 3.52 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | tetrahydro-3,5-bis(phenylmethylene)-4H-thiopyran-4-one | 20 mmole, 5.84 g | C1(=CC=CC=C1)C=C1CSCC(C1=O)=CC1=CC=CC=C1 | C19H16OS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,4,7,8-Tetrahydro-2-oxo-4-phenyl-8-(phenylmethylene)-2H,5H-thiopyrano[4,3-b]pyran-3-carboxylic acid, ethyl ester | O=C1C(C(C2=C(O1)C(CSC2)=CC2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC | C24H22O4S
